US09339503B2
2-(4-Acetylpiperazin-1-yl)-5,6,7,8-tetrahydro-3H-quinazolin-4-one (“A19”)
2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one (100 mg; 0.51 mmol) and N-acetylpiperazine (98 mg; 0.76 mmol) are reacted in isoamyl alcohol (1 ml) in accordance with the procedure for Example 1 (reaction time 8 h) and worked up. The crude product obtained in this way is purified by column chromatography; yield: 12 mg (8%), crystals;

reactant | 2-Methylsulfanyl-5,6,7,8-tetrahydro-3H-quinazolin-4-one | 0.51 mmol, 100 mg | CSC1=NC=2CCCCC2C(N1)=O | C9H12N2OS
reactant | N-acetylpiperazine | 0.76 mmol, 98 mg | C(C)(=O)N1CCNCC1 | C6H12N2O
solvent | isoamyl alcohol | 1 ml | C(CC(C)C)O | C5H12O
product | 2-(4-Acetylpiperazin-1-yl)-5,6,7,8-tetrahydro-3H-quinazolin-4-one | C(C)(=O)N1CCN(CC1)C1=NC=2CCCCC2C(N1)=O | C14H20N4O2
